US08293768B2
Synthesis of N-((5-(difluoromethyl)furan-2-yl)methyl)-2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with (5-(difluoromethyl)furan-2-yl)methanamine, the title compound was obtained as a white powder in 47% yield: mp 173-174° C. (diethyl ether); 1H NMR (300 MHz, CDCl3) δ 7.28-7.22 (m, 2H), 7.05-6.99 (m, 2H), 6.59-6.56 (m, 1H), 6.55 (t, JH-F=54.4 Hz, 1H), 6.32-6.29 (m, 1H), 6.01 (t, J=5.4 Hz, 1H), 4.56 (d, J=5.4 Hz, 2H), 4.43 (s, 2H), 4.08-4.02 (m, 2H), 3.46-3.40 (m, 2H), 2.58 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 164.2, 162.3, 160.9, 157.5, 155.4, 153.6, 153.3, 146.2, 130.3, 116.9, 115.8, 111.3, 108.4, 105.3, 47.3, 42.0, 41.7, 36.6, 17.3; MS (ES+) m/z 465.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
reactant | (5-(difluoromethyl)furan-2-yl)methanamine | FC(C1=CC=C(O1)CN)F | C6H7F2NO
product | N-((5-(difluoromethyl)furan-2-yl)methyl)-2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 47% yield | FC(C1=CC=C(O1)CNC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)F)=O)C)F | C21H19F3N4O3S
